US09024032B2
To a suspension of 6.6 g (30.5 mmol) 5-(benzyloxy)-2-methyl-4H-pyran-4-one in 150 ml 30% AcOH was added 7.5 g (45.8 mmol) m-aminobiphenyl. The reaction mixture was heated at 160° C. for 18 h, then cooled to rt, extracted with 300 ml EtOAc, washed with brine, and concentrated in vacuo. Purification by flash chromatography (330 g silica gel, 0-20% MeOH:EtOAc) afforded 5-(benzyloxy)-1-biphenyl-3-yl-2-methylpyridin-4(1H)-one. LCMS (M+H)+=368.3.

reactant | 5-(benzyloxy)-2-methyl-4H-pyran-4-one | 30.5 mmol, 6.6 g | C(C1=CC=CC=C1)OC=1C(C=C(OC1)C)=O | C13H12O3
reactant | m-aminobiphenyl | 45.8 mmol, 7.5 g | NC=1C=C(C=CC1)C1=CC=CC=C1 | C12H11N
solvent | AcOH | 150 ml | CC(=O)O | C2H4O2
product | 5-(benzyloxy)-1-biphenyl-3-yl-2-methylpyridin-4(1H)-one | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C=1C=C(C=CC1)C1=CC=CC=C1)C)=O | C25H21NO2
